US04829075
1-(4-Chlorobenzyl)-1-(1, 2, 4-triazol-1-yl)-cyclopropane
A suspension of 24.8 g (0.1 mol) of 4-chlorophenyl 1-(1, 2, 4-triazol-1-yl)-cyclopropyl ketone with 19.8 g of 80% strength hydrazine hydrate in 40 ml of diethylene glycol was refluxed for 1 hour and cooled, and 14.3 g of powdered potassium hydroxide were added to the clear yellow solution. The mixture was refluxed, and the resultant water of reaction was then distilled off until the diethylene glycol again refluxed. After 1 hour, the mixture was poured into water and extracted with dichloromethane; after drying, the solvent was removed in vacuo and the residue remaining was distilled in a high vacuum. 13.5 g (57%) of the title compound were obtained as a yellowish oil, of boiling point 154°-156° C./0.05, which crystallized with melting point 67°-8° C.

reactant | 4-chlorophenyl 1-(1, 2, 4-triazol-1-yl)-cyclopropyl ketone | 0.1 mol, 24.8 g | N1(N=CN=C1)C1(CC1)C(=O)C1=CC=C(C=C1)Cl | C12H10ClN3O
reactant | hydrazine hydrate | O.NN
reactant | potassium hydroxide | 14.3 g | [OH-].[K+]
reactant | water | O | H2O
solvent | diethylene glycol | 40 ml | C(COCCO)O | C4H10O3
product | 1-(4-Chlorobenzyl)-1-(1, 2, 4-triazol-1-yl)-cyclopropane | 13.5 g, 57% | ClC1=CC=C(CC2(CC2)N2N=CN=C2)C=C1 | C12H12ClN3
